US07005439B2
4-(2-{3-[4-(3,4-Dichloro-phenoxy)-piperidin-1-yl]-2-hydroxy-propoxy}-phenylcarbamoyl)-3-methyl-butyric acid
1-(2-aminophenoxy)-3-[4-(3,4-dichlorophenoxy)-1-piperidinyl]-2-propanol (75 uL, 0.2M/NMP) was mixed with 3-methyl glutaric anhydride (3 eq, 225 uL 0.2M /NMP) to get a product containing both esther and amide. After evaporation of the mixture it was treated with 3 eq 0.5M LiOH in (THF/water 1:4) for two hours at 80° C. to hydrolyse the esther. The reaction mixture was diluted with more water (2 mL) and the desired product was extracted with 5×500 uL EtOAc which was evaporated to dryness.

reactant | 1-(2-aminophenoxy)-3-[4-(3,4-dichlorophenoxy)-1-piperidinyl]-2-propanol | 0.2M, 75 uL | NC1=C(OCC(CN2CCC(CC2)OC2=CC(=C(C=C2)Cl)Cl)O)C=CC=C1 | C20H24Cl2N2O3
reactant | 3-methyl glutaric anhydride | 0.2M, 225 uL, 3 eq | CC1CC(=O)OC(C1)=O | C6H8O3
reactant | LiOH | 0.5M, 3 eq | [Li+].[OH-]
reactant | THF water | C1CCOC1.O
solvent | water | 2 mL | O | H2O
product | 4-(2-{3-[4-(3,4-Dichloro-phenoxy)-piperidin-1-yl]-2-hydroxy-propoxy}-phenylcarbamoyl)-3-methyl-butyric acid | ClC=1C=C(OC2CCN(CC2)CC(COC2=C(C=CC=C2)NC(=O)CC(CC(=O)O)C)O)C=CC1Cl | C26H32Cl2N2O6
